US07629375B2
[3,5-Bis-methoxymethoxy-4-(3-methyl-but-2-enyl)-phenyl]-methanol (2.0 g, 6.75 mmol) was dissolved in CH2Cl2 and placed in an ice bath. Triethylamine (1.2 ml, 8.92 mmol) was added and stirred until the reaction solution was at 0° C., followed by the dropwise addition of mesylate chloride (900 ul, 8.92 mmol). After stirring in the ice bath for 1 hour, the reaction was quenched with water, extracted with EtOAc, washed with brine, dried with MgSO4, filtered and evaporated yielding methanesulfonic acid 3,5-bis-methoxymethoxy-4-(3-methyl-but-2-enyl)-benzyl ester as a yellow oil. 1H NMR (CDCl3, 300 MHz) δ (ppm): 6.82 (s, 2H), 5.20 (t, 1H), 5.16 (s, 4H), 4.13 (s, 2H), 3.48 (s, 6H), 3.39 (d, 2H) 2.96 (s, 3H), 1.78 (s, 3H), 1.65 (s, 3H). MS (ESI) m/z: 375 (M+H)+, 397 (M+Na)+.

reactant | [3,5-Bis-methoxymethoxy-4-(3-methyl-but-2-enyl)-phenyl]-methanol | 6.75 mmol, 2.0 g | COCOC=1C=C(C=C(C1CC=C(C)C)OCOC)CO | C16H24O5
reactant | Triethylamine | 8.92 mmol, 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | mesylate chloride | 8.92 mmol, 900 ul | [Cl-].S(C)(=O)(=O)[O-]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 3,5-bis-methoxymethoxy-4-(3-methyl-but-2-enyl)-benzyl ester | COCOC=1C=C(COS(=O)(=O)C)C=C(C1CC=C(C)C)OCOC | C17H26O7S
